US08022222B2
A 250 mL round-bottomed flask was charged with tetrahydrofuran-2-carbaldehyde oxime (2.0 g, 17 mmol) and DMF (100 mL). 1-Chloropyrrolidine-2,5-dione (2.3 g, 17 mmol) was added and stirred at ambient temperature overnight. The reaction was poured into 1:1 brine:water (800 mL) and extracted with EtOAc). The organic layer was washed with water, dried over sodium sulfate, filtered and concentrated to afford tetrahydrofuran-2-carbonyl chloride oxime (2.6 g, 100%).

reactant | tetrahydrofuran-2-carbaldehyde oxime | 17 mmol, 2.0 g | O1C(CCC1)C=NO | C5H9NO2
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | 1-Chloropyrrolidine-2,5-dione | 17 mmol, 2.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | brine | [Cl-].[Na+].O
product | tetrahydrofuran-2-carbonyl chloride oxime | 2.6 g, 100% | O1C(CCC1)C(Cl)=NO | C5H8ClNO2
